US07951787B2
Synthesis of Ethyl-1-amino-1-cyclopentanoate hydrochloride salt
This was synthesised according to Standard Procedure 1, using 1-amino-1-cyclopentanecarboxylic acid (5.0 g, 38.6 mmol) with thionyl chloride (5.72 mL, 58 mmol) and anhydrous ethanol (29 mL). The product was isolated as a white solid (6.98 g, yield 93%).

reactant | 1-amino-1-cyclopentanecarboxylic acid | 38.6 mmol, 5.0 g | NC1(CCCC1)C(=O)O | C6H11NO2
reactant | thionyl chloride | 58 mmol, 5.72 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 29 mL | C(C)O | C2H6O
product | Ethyl-1-amino-1-cyclopentanoate hydrochloride salt | 6.98 g, yield 93% | Cl.C(C)OC(=O)C1(CCCC1)N | InChI=1S/C8H15NO2.ClH/c1-2-11-7(10)8(9)5-3-4-6-8;/h2-6,9H2,1H3;1H
